US09403831B2
(S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine (Chemical Formula 7)
(S)-tert-butyl 4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate 550 mg (0.88 mmol) was dissolved in 35% formaldehyde 0.5 ml and formic acid 2.5 ml, and charged with nitrogen, followed by stirring at 90° C. for 18 hours. After the completion of the reaction, the reaction mixture was cooled in an ice bath, and then adjusted to about pH 10 with a NaOH solution, followed by extraction with EA and brine, and the organic layer was dried over MgSO4. Column chromatography (methylene chloride:methanol=10:1) gave a product 161 mg (34%).

reactant | (S)-tert-butyl 4-(4-(2-(2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)morpholino)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.88 mmol, 550 mg | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@H]2OCCN(C2)C2=NC=C(C=N2)C=2C=NN(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C30H37N13O3
reactant | NaOH | [OH-].[Na+]
solvent | formaldehyde | 0.5 ml | C=O | CH2O
solvent | formic acid | 2.5 ml | C(=O)O | CH2O2
product | (S)-2-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)-4-(5-(1-(1-methylpiperidin-4-yl)-1H-pyrazol-4-yl)pyrimidin-2-yl)morpholine | 161 mg, 34% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C=2C=NN(C2)C2CCN(CC2)C | C26H31N13O
